US06319920B1
To a solution of N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine (0.23 grams, 0.79 mmole) in ethyl ether (10 ml) was added methyl isocyanate (0.2 ml, 3.4 mmole). After 1.0 hour at 22° C., the solution was concentrated under reduced pressure and the residue was recrystallized from ethyl ether/hexane to give N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-[1-(methylaminocarbonyl)piperidin-4-ylmethyl]amine (0.249 grams, 91%) m.p. 97-98° C.

reactant | N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine | 0.79 mmole, 0.23 grams | COC1=CC=C(C=C1)CC(C)N(CC)CC1CCNCC1 | C18H30N2O
reactant | methyl isocyanate | 3.4 mmole, 0.2 ml | CN=C=O | C2H3NO
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | N-[2-(4-methoxyphenyl)-1-methylethyl]-N-ethyl-[1-(methylaminocarbonyl)piperidin-4-ylmethyl]amine | 0.249 grams, 91% | COC1=CC=C(C=C1)CC(C)N(CC)CC1CCN(CC1)C(=O)NC | C20H33N3O2
